US04086248
To 100 ml of anhydrous methanol was added 20 g (0.073 mole) of 3-ethynylphenyl(p-toluenesulfonate) and 8.19 g (0.146 mole) of potassium hydroxide. The mixture was heated to reflux, under a nitrogen atmosphere and maintained at reflux for four hours. The methanol solvent was removed in vacuo at 40° C by means of a rotary evaporator, leaving a dry, white powder. The white powder was dissolved in 100 ml of dimethylsulfoxide (DMSO) and added dropwise to a DMSO solution containing 13.8 g (0.05 mole) of 4-bromonaphthalic anhydride at 90° C. The mixture was heated at 100° C, under a nitrogen atmosphere, for 12 hours. The reaction mixture was allowed to cool to room temperature and poured into diethylether to precipitate the inorganic salts which were removed by filtration. The diethylether/DMSO solvent was removed in vacuo at 90° C, by means of a rotary evaporator leaving a residual oil. The oil was dissolved in methylene chloride and filtered through a 2 inch × 6 inch dry column of silica gel while eluting the column with methylene chloride. The eluate was evaporated to dryness, yielding 7.8 g (50%) of 4-(3-ethynylphenoxy)naphthalic anhydride.

reactant | methanol | 100 ml | CO | CH4O
reactant | 3-ethynylphenyl(p-toluenesulfonate) | 0.073 mole, 20 g | C(#C)C=1C=C(C=CC1)C1=C(C=CC(=C1)S(=O)(=O)[O-])C
reactant | potassium hydroxide | 0.146 mole, 8.19 g | [OH-].[K+]
reactant | 4-bromonaphthalic anhydride | 0.05 mole, 13.8 g | BrC1=CC=C(C2=CC=CC=C12)C(=O)OC(=O)C1=CC=C(C2=CC=CC=C12)Br | C22H12Br2O3
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | diethylether | C(C)OCC | C4H10O
product | 4-(3-ethynylphenoxy)naphthalic anhydride | 7.8 g, 50% | C(#C)C=1C=C(OC2=CC=C(C3=CC=CC=C23)C(=O)OC(=O)C2=CC=C(C3=CC=CC=C23)OC2=CC(=CC=C2)C#C)C=CC1 | C38H22O5
